US05412066
4-(4-Aminophenoxy)-4'-phenylethynylbenzophenone (4-APEB)
In a 250 mL flask equipped with nitrogen inlet, overhead stirring assembly, Dean-Stark trap, and reflux condenser were placed 4-aminophenol (5.46 g, 0.05 mol), 4-phenylethynyl-4'-fluorobenzophenone (15.02 g, 0.05 mol), potassium carbonate (7.6 g, 0.055 mol), toluene (20 mL), and DMAc (45 mL). The mixture was heated to 150° C. for 2 h, then cooled to room temperature. The reaction mixture was poured into water and the resulting light yellow powder was collected by filtration. Recrystallization from toluene afforded the desired product in 85% yield: m.p. 151°-153° C. IR (KBr); 3382 and 3314 cm-1 (NH2); 3049, 1599, and 1509 cm-1 (aromatic C--H); 2217 cm-1 (C=C); and 1645 cm-1 (C=O): Mass Spec. m/e (relative intensity): M+, 389.4 (100); FW=389.44 g/mol.

reactant | 4-aminophenol | 0.05 mol, 5.46 g | NC1=CC=C(C=C1)O | C6H7NO
reactant | 4-phenylethynyl-4'-fluorobenzophenone | 0.05 mol, 15.02 g | C1(=CC=CC=C1)C#CC1=CC=C(C(=O)C2=CC=C(C=C2)F)C=C1 | C21H13FO
reactant | potassium carbonate | 0.055 mol, 7.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
solvent | DMAc | 45 mL | CC(=O)N(C)C | C4H9NO
product | 4-(4-Aminophenoxy)-4'-phenylethynylbenzophenone | 85% yield | NC1=CC=C(OC2=CC=C(C(=O)C3=CC=C(C=C3)C#CC3=CC=CC=C3)C=C2)C=C1 | C27H19NO2
